US07259179B2
6-Chloro-N-(4-fluorobenzyl)pyrazin-2-amine
In a procedure analogous to example 1, reaction of 4-fluorobenzylamine (3.75 g, 30.0 mmol) and 2,6-dichloropyrazine (1.49 g, 10.0 mmol) furnished the product (2.35 g, 99%).

reactant | 4-fluorobenzylamine | 30.0 mmol, 3.75 g | FC1=CC=C(CN)C=C1 | C7H8FN
reactant | 2,6-dichloropyrazine | 10.0 mmol, 1.49 g | ClC1=NC(=CN=C1)Cl | C4H2Cl2N2
product | 6-Chloro-N-(4-fluorobenzyl)pyrazin-2-amine | 2.35 g, 99% | ClC1=CN=CC(=N1)NCC1=CC=C(C=C1)F | C11H9ClFN3
